US06150373
A dry-ice/acetone cooled solution of 2 g (12 mmol) of 3-nitrophenylacetonitrile in 100 ml of tetrahydrofuran was treated with 4.4 g (26.5 mmol) of iodoethane, 3 g (27 mmol) of potassium tert-butoxide and 800 mg (3 mmol) of 18-crown-6. The mixture was stirred for 18 hours allowing the reaction temperature to steadily rise to ambient temperature. 100 ml of saturated aqueous ammonium chloride were added and the organic phase separated, dried over magnesium sulfate, filtered and evaporated. The product was purified by flash chromatography on silica gel using diethyl ether/hexane in a ratio of 3:7 as eluent. Product-containing fractions were evaporated to give 2.1 g (80%) of 2-ethyl-2-(3-nitro-phenyl)-butyronitrile as a pale brown oil. [Mass spectrum (ESI) MH+ =219].

reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | 3-nitrophenylacetonitrile | 12 mmol, 2 g | [N+](=O)([O-])C=1C=C(C=CC1)CC#N | C8H6N2O2
reactant | iodoethane | 26.5 mmol, 4.4 g | ICC | C2H5I
reactant | potassium tert-butoxide | 27 mmol, 3 g | CC(C)([O-])C.[K+]
reactant | 18-crown-6 | 3 mmol, 800 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-ethyl-2-(3-nitro-phenyl)-butyronitrile | 2.1 g, 80% | C(C)C(C#N)(CC)C1=CC(=CC=C1)[N+](=O)[O-] | C12H14N2O2
